US08252781B2
Benzyl 2-(5-methoxycarbonyladamantan-2-yl)hydrazinecarboxylate and 2-bromoisobutyrylbromide were used for a similar reaction and treatment as Process 3 of Example 1, and benzyl 2-(2-bromoisobutyryl)-2-(5-methoxycarbonyladamantan-2-yl)hydrazinecarboxylate was obtained as a colorless oil.

reactant | Benzyl 2-(5-methoxycarbonyladamantan-2-yl)hydrazinecarboxylate | COC(=O)C12CC3C(C(CC(C1)C3)C2)NNC(=O)OCC2=CC=CC=C2 | C20H26N2O4
reactant | 2-bromoisobutyrylbromide | BrC(C(=O)Br)(C)C | C4H6Br2O
product | benzyl 2-(2-bromoisobutyryl)-2-(5-methoxycarbonyladamantan-2-yl)hydrazinecarboxylate | BrC(C(=O)N(NC(=O)OCC1=CC=CC=C1)C1C2CC3CC(CC1C3)(C2)C(=O)OC)(C)C | C24H31BrN2O5
